US04250085
Dimethyl (1R)-1-[(N-benzyloxycarbonyl-L-alanyl-L-alanyl)amino]-ethylphosphonate was dissolved in methanol and catalytically hydrogenated in the presence of 10% palladium-on-charcoal. The solution was filtered and evaporated to give dimethyl (1R)-1-(L-alanyl-L-alanylamino)-ethylphosphonate in the form of an oil.

reactant | Dimethyl (1R)-1-[(N-benzyloxycarbonyl-L-alanyl-L-alanyl)amino]-ethylphosphonate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(OC)(OC)=O | C18H28N3O7P
solvent | methanol | CO | CH4O
solvent | palladium-on-charcoal | [Pd] | Pd
product | dimethyl (1R)-1-(L-alanyl-L-alanylamino)-ethylphosphonate | N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(OC)(OC)=O | C10H22N3O5P
